US09290459B1
4-(4-Bromophenyl)-1-(3-(trifluoromethyl)phenyl)-3,4,6,7-tetrahydro-1H-cyclopenta[d]pyrimidine-2,5-dione
A solution of 1-bromo-4-(chloro(isocyanato)methyl)benzene (14.7 g, 47.6 mmol) in dichloromethane (100 mL) is added to a solution of 3-(3-(trifluoromethyl)phenylamino)-cyclopent-2-enone (11.0 g, 45.6 mmol) in dichloromethane (100 mL) and the mixture is heated at reflux for 1.5 hours. Water is added, and the phases are extracted twice with dichloromethane. The combined organic layers are concentrated and the residue is purified by flash chromatography on silica (gradient cyclohexane/ethyl acetate 4:1 to ethyl acetate). Yield: 7.5 g; ESI mass spectrum: ESI mass spectrum: [(79Br)-M+H]+=451, [(81Br)-M+H]+=453; Retention time HPLC: 1.15 min (V012_S01).

reactant | 1-bromo-4-(chloro(isocyanato)methyl)benzene | 47.6 mmol, 14.7 g | BrC1=CC=C(C=C1)C(N=C=O)Cl | C8H5BrClNO
reactant | 3-(3-(trifluoromethyl)phenylamino)-cyclopent-2-enone | 45.6 mmol, 11.0 g | FC(C=1C=C(C=CC1)NC1=CC(CC1)=O)(F)F | C12H10F3NO
reactant | Water | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-(4-Bromophenyl)-1-(3-(trifluoromethyl)phenyl)-3,4,6,7-tetrahydro-1H-cyclopenta[d]pyrimidine-2,5-dione | BrC1=CC=C(C=C1)C1C2=C(N(C(N1)=O)C1=CC(=CC=C1)C(F)(F)F)CCC2=O | C20H14BrF3N2O2
